data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21](CCCCC#N)[C+:22](C1=CC=CC=C1)C2=CC=CC=C2.[OH2:10].[Cl-]>>[H:20][OH2+:10].C1=CC=C(C=C1)[C:22](=[CH:21]CCCCC#N)C2=CC=CC=C2.[Cl-] 10=20;20,21=21,22
[Li:11][CH2:10]CCC.C1CCC(CC1)C2=CC=C(C=C2)[CH:20]=[O:21]>>[Li+:11].CCC[CH2:10][CH:20](C1=CC=C(C=C1)C2CCCCC2)[O-:21] 10,11=10,20;20,21=21
C[NH:10][C:20]([OH2+:21])(O)O>>C[NH+:10]=[C:20](O)O.[OH2:21] 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)OC(=O)CC)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCC(=O)O[C:24]1=[CH:23][CH:22]=[C:21](C=C1)[N+](=O)[O-] 10=20;20,21=21,22;22,23=23,24
C=C1CC[CH:20]([O:21]1)[O-:10].O>>C=C(CC[CH:20]=[O:10])[O-:21].O 10=20;20,21=21
[H:20][O:21]C(=O)C.CC(=O)CCC(=O)C1=CC(=CC(=C1)C(=O)CCC(C)([NH3+])[O-:10])C(=O)CCC(=O)C.C(=O)[O-]>>[H:20][O:10]C(C)(CCC(=O)C1=CC(=CC(=C1)C(=O)CCC(=O)C)C(=O)CCC(=O)C)[NH3+].CC(=O)[O-:21].C(=O)[O-] 10=20;20,21=21
C[SH:10].[Cl:20][Cl:21]>>C[SH+:10][Cl:20].[Cl-:21] 10=20;20,21=21
CC[SH:10].[CH2:20]=[CH:21][C:22](=[OH+:23])N>>CC[SH+:10][CH2:20][CH:21]=[C:22](N)[OH:23] 10=20;22,23=23;20,21=21,22
CC[O:21][C:20](C)(CC1=NC=CC=C1)[O-:10]>>CC[O-:21].C[C:20](=[O:10])CC1=NC=CC=C1 10=20;20,21=21
[H:20][O+:21]1CCC2=C(C1(C)C)C=CC=C2.[OH2:10]>>[H:20][OH2+:10].CC1(C2=C(CC[O:21]1)C=CC=C2)C 10=20;20,21=21
[B:20](F)(F)F.CC(=[O:10])C>>[B-:20]([O+:10]=C(C)C)(F)(F)F 10=20,
[H:20][C:21](=[N+:22]([O-])[Cl:23])C(C)(C)C.CC[N:10](CC)CC.C1CC(=O)NC1=O>>[H:20][N+:10](CC)(CC)CC.CC(C)(C)[C:21]#[N+:22][O-].[Cl-:23].C1CC(=O)NC1=O 10=20;22,23=23;20,21=21,22
[B-]([O:10]C)(F)(F)F.C[CH:20]=[N+:21](C)C>>[B-]([O+:10](C)[CH:20](C)[N:21](C)C)(F)(F)F 10=20;20,21=21
[Li-:10](O)[OH+:11]C(CC(C)C)(C1=CC=CC=C1)C2=CC=CC=C2.[Li+].CCCC[O-]>>[Li:10]O.CC(C)CC(C1=CC=CC=C1)(C2=CC=CC=C2)[OH:11].[Li+].CCCC[O-] 10,11=11
C1=C[CH][CH:11](C=C1)[Na:10]>>[CH-:11]1C=CC=C[CH]1.[Na+:10] 10,11=11
[CH2:10]=[CH:11][O-:12].C1[CH2:20][O:21]1>>[CH2:20]([CH2:10][CH:11]=[O:12])C[O-:21] 10,11=10,20;20,21=21;12=11
[CH3:20][I:21].C(CO)[NH2:10]>>[CH3:20][NH2+:10]CCO.[I-:21] 10=20;20,21=21
C[C:20]1([OH+:21]CC(C[O:10]1)(C)C(=O)OCC#C)C.CO.O.OS(=O)(=O)[O-]>>C[C:20](=[O+:10]CC(C)(C[OH:21])C(=O)OCC#C)C.CO.O.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][O:21]C(=O)CCCC=C(F)F.CCOC(=O)N[N-:10]C(=O)OCC.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)OCC4=CC5=C(C=CC=C5)C=C4>>[H:20][N:10](C(=O)OCC)NC(=O)OCC.C(CC=C(F)F)CC(=O)[O-:21].C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)OCC4=CC5=C(C=CC=C5)C=C4 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.COC1=C(C=C(C(=C1)C=[O:10])Br)OC.C(CO)CO>>[H:20][O+:10]=CC1=CC(=C(C=C1Br)OC)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C(CO)CO 10=20;20,21=21
CCO[C:20](=[O:21])C.[CH2-:10]C1=NC=CC=C1>>CCO[C:20](C)([CH2:10]C1=NC=CC=C1)[O-:21] 10=20;20,21=21
CCCCO[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CCCCO[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
C[C+:20](C)C.[Br-:10]>>C[C:20](C)(C)[Br:10] 10=20,
CC1(CCCC2(C1CCC[C:20]2([OH:10])[OH+:21]CCO)C)C(=O)OC.C1CCOC1.O.[Cl-]>>C(CO)[OH:21].CC12CCCC(C1CCC[C:20]2=[OH+:10])(C)C(=O)OC.C1CCOC1.O.[Cl-] 10=20;20,21=21
[H:20][O:21]C(=O)CCC(=O)C.[OH-:10]>>[H:20][OH:10].CC(=O)CCC(=O)[O-:21] 10=20;20,21=21
[HH].CC1CC2C3(COC(O2)(C)C)C(CCCC3C1(C)C4CC5CCOC5O4)COC(=S)[S-:10].[CH3:20][I:21].[Na+]>>[HH].CC1CC2C3(COC(O2)(C)C)C(CCCC3C1(C)C4CC5CCOC5O4)COC(=S)[S:10][CH3:20].[Na+].[I-:21] 10=20;20,21=21
CC(C1=CC=CC=C1)O[P:10](C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)[S:11]C5=NC6=C(S5)C=CC=C6.C1=CC2=C(C=C1)SC(=N2)S>>CC(C1=CC=CC=C1)O[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.C1=CC2=C(C=C1)SC(=N2)[S-:11].C1=CC2=C(C=C1)SC(=N2)S 10,11=11
C1CC(OC(=O)C1)C2CC2C(CO)[OH+:11][Sn-:10](Cl)(Cl)(Cl)Cl.[OH-]>>C1CC(OC(=O)C1)C2CC2C(CO)[OH:11].Cl[Sn:10](Cl)(Cl)Cl.[OH-] 10,11=11
[H:20][O+:21]=CCCBr.[Br-:10]>>[H:20][Br:10].C(CBr)C=[O:21] 10=20;20,21=21
CC[O-:10].C[CH2:20][Br:21]>>CC[O:10][CH2:20]C.[Br-:21] 10=20;20,21=21
CCC(C)CCC=C(C)CC[CH:10]=[C:11](C)C.C[Al-](C)([O+:21]=[CH2:20])Cl>>CCC(C)CCC=C(C)CC[CH:10]([CH2:20][O:21][Al-](C)(C)Cl)[C+:11](C)C 10,11=10,20;20,21=21
[CH:11]1=[CH:10]OC=C1[N+](=O)[O-].[N+:20](=O)=[O:21]>>C1=C([CH+:11][CH:10](O1)[N+:20](=O)[O-:21])[N+](=O)[O-] 10,11=10,20;20,21=21
C[N+:21](=[C:20](O)OC)CC[OH:10]>>C[N:21]1CC[OH+:10][C:20]1(O)OC 10=20;20,21=21
CC[CH+:20]OC.CC[OH:10]>>CC[CH:20]([OH+:10]CC)OC 10=20,
C[NH:10][CH2:20][F:21]>>C[NH+:10]=[CH2:20].[F-:21] 10=20;20,21=21
CC(C)(C)OC(=O)N1CCC(C1C(=O)OC)OC2=CC=C(C=C2)[CH:20]=[O:21].[CH2-:10][N+](=O)[O-].C[OH+][Na]>>CC(C)(C)OC(=O)N1CCC(C1C(=O)OC)OC2=CC=C(C=C2)[CH:20]([CH2:10][N+](=O)[O-])[O-:21].C[OH+][Na] 10=20;20,21=21
CC1=CC=C(C=C1)[S:10]C[CH:20](C)[O:21]S(=O)(=O)C2=CC=C(C=C2)C.CO.N>>C[CH:20]1C[S+:10]1C2=CC=C(C=C2)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CO.N 10=20;20,21=21
[H:20][Br:21].C#CCC1=C(C=CC=C1)[NH:12][N:11]=[O:10]>>[H:20][O:10][N:11]=[NH+:12]C1=C(C=CC=C1)CC#C.[Br-:21] 10,11=10,20;20,21=21;12=11
CO[C:22](=[O:23])[CH:21]=[CH:20]C1=CC=CC=C1.O[O-:10]>>CO[C:22](=[CH:21][CH:20](C1=CC=CC=C1)[O:10]O)[O-:23] 10=20;22,23=23;20,21=21,22
